US05449785
To a stirred suspension of methoxymethylphosphonium chloride (1,130 mg) in dry tetrahydrofuran (3 ml) there was added n-BuLi (1.9 ml, 1.6M in n-hexane) at 0° C. After the mixture was stirred at 0° C. for 30 min, a solution of (2S,4S,5S)-4-methoxy-5-methyl-2-nonyltetrahydro-2H-pyran-3-one (273 mg) in dry tetrahydrofuran (3 ml) was added to the resulting deep orange solution. After 30 min, the mixture was allowed to warm to room temperature, and stirred for an additional 2 hrs. The reaction was quenched by addition of saturated aqueous ammonium chloride solution. The mixture was extracted with diethyl ether, and the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. Purification of the residue by silica gel chromatography (n-hexane: ethyl acetate=10:1 as an eluent) gave (2S,4S,5S)-4-methoxy-5-methyl-3-methoxymethylene-2-nonyltetrahydro-2H-pyran (249 mg,83% yield).

reactant | methoxymethylphosphonium chloride | 1,130 mg | [Cl-].COC[PH3+]
reactant | n-BuLi | 1.6M, 1.9 ml | [Li]CCCC
reactant | (2S,4S,5S)-4-methoxy-5-methyl-2-nonyltetrahydro-2H-pyran-3-one | 273 mg | CO[C@@H]1C([C@@H](OC[C@@H]1C)CCCCCCCCC)=O | C16H30O3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4S,5S)-4-methoxy-5-methyl-3-methoxymethylene-2-nonyltetrahydro-2H-pyran | 249 mg, 83% yield | CO[C@@H]1C([C@@H](OC[C@@H]1C)CCCCCCCCC)=COC | C18H34O3
